US07790756B2
To a solution of 4-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)-2-(methylthio)pyrimidine (200 mg, 0.64 mmol) in dichloromethane was added m-CPBA (220 mg, 1.28 mmol). The reaction was stirred for 2 hour at RT. Water was added, the organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organics were washed with brine and concentrated in vacuo. The residue was combined with 3-amino-4-fluorophenol (165 mg, 1.28 mmol) and K2CO3 (176 mg, 1.28 mmol) in DMF (5 mL) and the resultant mixture was heated at 90° C. overnight. After filtration and concentration, the residue was purified by silica gel column chromatography to give 5-(4-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)pyrimidin-2-yloxy)-2-fluorobenzenamine (210 mg, 84% yield). 1H NMR (300 MHz, DMSO-d6) δ 8.50 (s, 1H), 8.44, (d, J=5.4 Hz, 1H), 8.10 (s, 1H), 7.42 (d, J=5.4 Hz, 1H), 7.25 (d, J=8.4 Hz, 2H), 6.98 (t, J=9.6 Hz, 1H), 6.91 (d, J=8.4 Hz, 2H), 6.52 (dd, J=2.7, 8.7 Hz, 1H), 6.28 (m, 1H), 5.30 (br s, 2H), 5.26 (s, 2H), 3.72 (s, 3H); MS (ESI) m/z: 392.2 (M+H+).

reactant | 4-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)-2-(methylthio)pyrimidine | 0.64 mmol, 200 mg | COC1=CC=C(CN2N=CC(=C2)C2=NC(=NC=C2)SC)C=C1 | C16H16N4OS
reactant | m-CPBA | 1.28 mmol, 220 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 3-amino-4-fluorophenol | 1.28 mmol, 165 mg | NC=1C=C(C=CC1F)O | C6H6FNO
reactant | K2CO3 | 1.28 mmol, 176 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 5-(4-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)pyrimidin-2-yloxy)-2-fluorobenzenamine | 210 mg, 84% yield | COC1=CC=C(CN2N=CC(=C2)C2=NC(=NC=C2)OC=2C=CC(=C(C2)N)F)C=C1 | C21H18FN5O2
